US07141598B2
(i) Production of 3-bromo-1-(1H-imidazol-4-yl)-1-propanone
1-(1-Trityl-1H-imidazol-4-yl)-2-propen-1-one (29.0 g) was dissolved in acetic acid (130 ml) and the mixture was cooled to 10° C. A 25% solution of hydrogen bromide in acetic acid (100 ml) was added and the mixture was stirred at room temperature for 2 h. Isopropyl ether was added to the reaction mixture and the precipitated crystals were collected by filtration and washed with diisopropyl ether to give the title compound (22.3 g) as a pale yellow powder.

reactant | 1-(1-Trityl-1H-imidazol-4-yl)-2-propen-1-one | 29.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(C=C)=O | C25H20N2O
reactant | hydrogen bromide | Br | BrH
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-1-(1H-imidazol-4-yl)-1-propanone | 22.3 g | BrCCC(=O)C=1N=CNC1 | C6H7BrN2O
